US06130234
1-(4-(4-Aminophenyl)-3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine
A solution of 1-(3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine (263 mg, 1.00 mmol), 4-iodoaniline (208 mg, 0.950 mmol) and 50 mg of tetrakis(triphenylphosphine) palladium in 10 mL of butylamine is allowed to reflux for 20 hr. The solvent is evaporated in vacuo to give a residue, which is purified by flash chromatography giving the product as an off white solid (70 mg, 21%): mp 134-136βC; 1H NMR (CDCl3) 1.59 (m, 2 H), 1.90 (m, 2 H), 2.47 (m, 6 H), 2.67 (m, 2 H), 3.59 (s, 1 H), 3.87 (bs, 2 H), 6.46 (d, J=8.1 Hz, 1 H), 7.02 (d, J=8.1 Hz, 2 H), 7.14 (d, J=8.4 Hz, 2 H), 7.33 (d, J=8.4 Hz, 2 H).

reactant | 1-(3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine | 1.00 mmol, 263 mg | C(CC#C)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C15H18ClNO
reactant | 4-iodoaniline | 0.950 mmol, 208 mg | IC1=CC=C(N)C=C1 | C6H6IN
solvent | butylamine | 10 mL | C(CCC)N | C4H11N
catalyst | tetrakis(triphenylphosphine) palladium | 50 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(4-(4-Aminophenyl)-3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine | 70 mg, 21% | NC1=CC=C(C=C1)C#CCCN1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C21H23ClN2O
